US06413694B1
Synthesis of 2-Phenylethyl p-Styrene Sulfonate: Monomer 4
2-Phenylethanol (3.1 g) was reacted with p-styrene sulfonyl chloride (5.3 g) and triethylamine (2.7 g) in 20 ml of dichloromethane for 3 hours to give the desired product as a light yellow viscous oil that was purified by passing through basic aluminum oxide.

reactant | 2-Phenylethanol | 3.1 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | p-styrene sulfonyl chloride | 5.3 g | C=CC1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Phenylethyl p-Styrene Sulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)OCCC1=CC=CC=C1 | C16H16O3S
